US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.127 g, 0.809 mmol) was reacted with (3-Azido-2-methyl-propenyl)-benzene (0.168 g, 0.971 mmol) following the general procedure for click reactions outlined above to produce 4-[1-(2-Methyl-3-phenyl-allyl)-1H[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine hydrochloride (0.244 g, 91%) of a pale yellow solid. 1H NMR (300 MHz, D2O) δ 7.94 (s, 1H), δ 7.40-7.35 (m, 5H), δ 6.56 (s, 1H), δ 5.10 (s, 2H), δ 3.99 (s, 2H), δ 1.76 (s, 3H) ppm; 13C δ 145.8, 138.1, 136.9, 136.5, 136.4, 132.8, 128.3, 128.0, 127.6, 125.3, 123.4, 49.3, 23.8, 23.4; HRMS (ESI) calcd for C16H18N6 (M+) 295.1665, found 295.1665.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.809 mmol, 0.127 g | Cl.C(C#C)C=1N=C(NC1)N
reactant | (3-Azido-2-methyl-propenyl)-benzene | 0.971 mmol, 0.168 g | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
product | 4-[1-(2-Methyl-3-phenyl-allyl)-1H[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine hydrochloride | 0.244 g, 91% | Cl.CC(CN1N=NC(=C1)CC=1N=C(NC1)N)=CC1=CC=CC=C1 | InChI=1S/C16H18N6.ClH/c1-12(7-13-5-3-2-4-6-13)10-22-11-15(20-21-22)8-14-9-18-16(17)19-14;/h2-7,9,11H,8,10H2,1H3,(H3,17,18,19);1H
